US07514470B2
2-[4-Cyano(2,2,2-trifluoroethyl)-3-(trifluoromethyl)anilino]-N′,N′-dimethylacetohydrazide
Synthesized as described in example 3 using N-[4-cyano-3-(trifluoromethyl)phenyl]-N-(2,2,2-trifluoroethyl)glycine and 1,1-dimethylhydrazine: 1H NMR (400 MHz, CD3OD) δ 7.77 (d, J=9.6 Hz, 1H), 7.14 (bs, 2H), 7.08 (s, 1H), 4.36 (q, J=9.0 Hz, 2H), 4.26 (s, 2H), 2.69 (s, 3H), 2.61 (s, 3H).

reactant | N-[4-cyano-3-(trifluoromethyl)phenyl]-N-(2,2,2-trifluoroethyl)glycine | C(#N)C1=C(C=C(C=C1)N(CC(=O)O)CC(F)(F)F)C(F)(F)F | C12H8F6N2O2
reactant | 1,1-dimethylhydrazine | CN(N)C | C2H8N2
product | 2-[4-Cyano(2,2,2-trifluoroethyl)-3-(trifluoromethyl)anilino]-N′,N′-dimethylacetohydrazide | C(#N)C1=C(C=C(N(CC(=O)NN(C)C)CC(F)(F)F)C=C1)C(F)(F)F | C14H14F6N4O
